US05541324
2-(Isocyanomethyl)benzoxazole
To 2.83 g (16.1 mmol) of 2-(N-formylaminomethyl)benzoxazole, 7.39 ml (53.0 mmol) of triethylamine, and 30 ml of dichloromethane stirred at 0° are added dropwise 2.71 g (17.7 mmol) of phosphorous oxychloride in 5 ml of dichloromethane. The reaction mixture is stirred at 0° for 45 min and then 2.81 g of sodium carbonate dissolved in 20 ml of water is added. The mixture is stirred for 30 min and then partitioned between dichloromethane and aq. sodium bicarbonate. The organic layers are dried over sodium sulfate and concentrated and the crude product is chromatographed on silica gel (325 ml) eluting with ethyl acetate/hexane (10/90), the appropriate fractions are pooled and concentrated to give the title compound, mp 57.0°-57.5°; MS (m/z) 158; IR 766, 2166, 987, 1167 and 1230 cm-1 ; NMR (CDCl3) 4.94, 7.42, 7.58 and 7.76 δ.

reactant | 2-(N-formylaminomethyl)benzoxazole | 16.1 mmol, 2.83 g | C(=O)NCC=1OC2=C(N1)C=CC=C2 | C9H8N2O2
reactant | triethylamine | 53.0 mmol, 7.39 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorous oxychloride | 17.7 mmol, 2.71 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | 2.81 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(Isocyanomethyl)benzoxazole | [N+](#[C-])CC=1OC2=C(N1)C=CC=C2 | C9H6N2O
